US08097727B2
1.1 A solution of 10.0 g of 3,4-diamino-2-chloropyridine and 6.62 ml of acetic anhydride in 100 ml of THF is stirred at room temperature for 16 hours. The product is separated off and dried, giving 7.3 g of N-(4-amino-2-chloropyridin-3-yl)acetamide (“1”).

reactant | 3,4-diamino-2-chloropyridine | 10.0 g | NC=1C(=NC=CC1N)Cl | C5H6ClN3
reactant | acetic anhydride | 6.62 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-(4-amino-2-chloropyridin-3-yl)acetamide | 7.3 g | NC1=C(C(=NC=C1)Cl)NC(C)=O | C7H8ClN3O
